US06191127B1
C) 2,6-Dimethyl-1,4-benzoxazin-3-one
3.39 g of 2-amino-4-methylphenol is mixed in 12 ml of toluene with 1.8 g of sodium hydride, and 3.95 ml of 2-bromo-propionic acid ethyl ether is added drop by drop at ice bath temperature. After 4 hours at room temperature, it is poured onto water, extracted with ethyl acetate, washed with brine, the organic phase is dried with magnesium sulfate and concentrated by evaporation. Column chromatography with hexane/ethyl acetate yields 43% product.

reactant | 2-amino-4-methylphenol | 3.39 g | NC1=C(C=CC(=C1)C)O | C7H9NO
reactant | sodium hydride | 1.8 g | [H-].[Na+]
solvent | toluene | 12 ml | C1(=CC=CC=C1)C | C7H8
product | 2,6-Dimethyl-1,4-benzoxazin-3-one | 43% | CC1OC2=C(NC1=O)C=C(C=C2)C | C10H11NO2
